US05455258
To a solution of D-valine (15.0 g, 128.0 mmol) in 1:1 dioxane/water (200 mL) containing triethylamine (19.4 g, 192.0 mmol) at room temperature is added 4-methoxybenzenesulfonyl chloride (29.0 g, 141.0 mmol), and the reaction mixture is stirred at room temperature overnight. The mixture is then diluted with methylene chloride, washed with 1N aqueous hydrochloric acid and water. The organic layer is washed again with brine, dried (Na2SO4), and the solvent is evaporated to provide N-[4-methoxybenzenesulfonyl]-(D)-valine as a crude product. A solution of this crude product (15.0 g) in toluene (100 mL) containing N,N-dimethylformamide di-t-butyl acetal (50 mL, 206.5 mmol) is heated to 95° C for 3 hours.

reactant | D-valine | 128.0 mmol, 15.0 g | N[C@H](C(C)C)C(=O)O | C5H11NO2
reactant | dioxane water | 200 mL | O1CCOCC1.O
reactant | triethylamine | 192.0 mmol, 19.4 g | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 141.0 mmol, 29.0 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[4-methoxybenzenesulfonyl]-(D)-valine | COC1=CC=C(C=C1)S(=O)(=O)N[C@H](C(C)C)C(=O)O | C12H17NO5S
